Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / clonidine / Hydralazine / 
phenytoin / amlodipine / trimethoprim / lisinopril / losartan / 
spironolactone / protamine
 
Attending: ___.
 
Chief Complaint:
Prosthetic Valve Aortic insufficiency, TAVR placement
 
Major Surgical or Invasive Procedure:
TAVR ___
 
History of Present Illness:
___ year old man with a history of AS s/p two prior valve 
replacements, diabetes, CKD, dCHF, atrial flutter s/p ablation 
in ___ and atrial fibrillation is s/p TAVR ___ done for 
Aortic insufficiency. 

Patient had a 2 ___ 3 placed with mild complication of 
some post-operative oozing from right femoral artery access 
site. The ___ 3, it was deployed with great result 
byhemodynamics, angiography, and TEE (trace AI). Post procedure 
gradient was 12 mmHg with no AI. There was no evidence of 
coronary compromise followingthe procedure.

On the floor patient is feeling well with only complaint of mild 
lower lip tingling and swelling. He noted this immediately 
post-op, however he thinks it might have worsened after his 
second dose of cefazolin. He denied any tongue swelling or 
shortness of breath or wheezing. No chest pain or pain at R 
femoral sight which reportedly had some oozing. 

 
Past Medical History:
Hypertension, essential  
HISTORY AORTIC VALVE REPLACEMENT TWICE ___ for bicuspid 
valve disease, bioprosthetic valve  
SUBARACHNOID Hemorrhage  
Gallstone pancreatitis requiring partial pancreatectomy leading 
to DM and pancreatic insufficiency  
HYPERCHOLESTEROLEMIA  
ANEMIA, Fe def  
Obesity  
DM (diabetes mellitus), type 2, uncontrolled, with renal 
complications, last a1c 10.3 ___  
Atrial flutter/fibrillation on coumadin s/p ablation  
CKD (chronic kidney disease) x ___ year, undergoing outpt workup  
 

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 97.9 BP 116-148/ 62-78 HR 52-69 RR 18 O2 SAT 96% RA  
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  
Swollen lip with appearance of minor contusion
NECK: Supple with JVP not seen at 90 degrees.  
CARDIAC: RRR, systolic EM best heard at LUSB. ? ___. No 
diastolic murmurs.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
R femoral sight w/o bruising or hematoma

DISCHARGE PHYSICAL EXAM

 
Pertinent Results:
ADMISSION LABS
-------------------

___ 08:27AM   freeCa-1.17
___ 08:27AM   HGB-12.1* calcHCT-36
___ 08:27AM   GLUCOSE-279* LACTATE-2.4* NA+-134 K+-4.1 
CL--95*
___ 08:27AM   TYPE-ART PO2-368* PCO2-47* PH-7.41 TOTAL 
CO2-31* BASE XS-4 INTUBATED-INTUBATED VENT-CONTROLLED
___ 10:54AM   ___ PTT-29.4 ___
___ 10:54AM   PLT COUNT-108*
___ 10:54AM   WBC-5.3 RBC-3.58* HGB-11.2* HCT-32.7* MCV-91 
MCH-31.3 MCHC-34.3 RDW-14.8 RDWSD-49.8*
___ 10:54AM   MAGNESIUM-2.2
___ 10:54AM   estGFR-Using this
___ 10:54AM   GLUCOSE-215* UREA N-65* CREAT-2.0* SODIUM-136 
POTASSIUM-3.9 CHLORIDE-95* TOTAL CO2-29 ANION GAP-16

IMPORTANT STUDIES

___ TEE
Left Ventricle - Ejection Fraction:   50% to 55%   >= 55%   
Aortic Valve - Peak Gradient:   *35 mm Hg   < 20 mm Hg   
Aortic Valve - Mean Gradient:   18 mm Hg      

The left atrium is mildly dilated. No spontaneous echo contrast 
or thrombus is seen in the body of the left atrium or left 
atrial appendage. The right atrium is moderately dilated. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity is moderately dilated. The right ventricular free wall 
thickness is normal. The right ventricular cavity is markedly 
dilated with mild global free wall hypokinesis. There are simple 
atheroma in the aortic root. The descending thoracic aorta is 
mildly dilated. The aortic wall is thickened consistent with an 
intramural hematoma. The aortic valve leaflets are severely 
thickened/deformed. There is very severe aortic valve stenosis 
(Vmax ___ or mean gradient >=60mmHg; valve area <1.0cm2). 
Severe (4+) aortic regurgitation is seen. The mitral valve 
leaflets are moderately thickened. There is moderate thickening 
of the mitral valve chordae. Moderate (2+) mitral regurgitation 
is seen. The tricuspid valve leaflets are mildly thickened. 
There is no pericardial effusion. 

 POST TAVI:
 1. A tricuspid prosthetic valve is seenin the aorticposition. 
Well seated and stable with good leaflet excursion. There is 
trace valvular AI and minimal trans-aortic gradient. 
 2. Preserved bo-ventricular systolic function
 3. No other change  

TTE ___
SUBOPTIMAL IMAGE QUALITY. Both atria are moderately dilated. Due 
to suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. There is mild global left ventricular 
hypokinesis (LVEF = 40-45 %). Overall left ventricular systolic 
function is mildly depressed. Doppler parameters are 
indeterminate for left ventricular diastolic function. The right 
ventricular cavity is moderately dilated. An ___ 
aortic valve bioprosthesis is present. The transaortic gradient 
is higher than expected for this type of prosthesis. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. 

 Compared with the prior study (images reviewed) of ___, 
left ventricular contractile function is less vigorous. A TAVR 
is now present with resolution of aortic regurgitation. The 
transvalvular gradients are higher than expected. There is less 
mitral regurgitation.  

DISCHARGE LABS
-----------------

___ 10:30AM BLOOD WBC-5.7 RBC-3.87* Hgb-12.2* Hct-35.9* 
MCV-93 MCH-31.5 MCHC-34.0 RDW-14.9 RDWSD-50.3* Plt ___
___ 10:30AM BLOOD Plt ___
___ 10:30AM BLOOD Glucose-374* UreaN-53* Creat-2.0* Na-133 
K-4.3 Cl-92* HCO3-28 AnGap-17
___ 10:30AM BLOOD Calcium-9.6 Phos-3.2 Mg-2.___ year old man with a history of AS s/p two prior valve 
replacements, diabetes, CKD, dCHF, atrial flutter s/p ablation 
in ___ and atrial fibrillation is s/p TAVR ___ done for 
Aortic insufficiency. Patient tolerated the procedure well. TTE 
___ revealed resolution of AI, but higher than expected 
gradient across AV (mean gradient of 32 mm Hg).

# Severe Prosthetic Valve AI: s/p placement of 2 ___ 3 
TAVR with intra-operative TEE revealing good hemodynamic 
result.Patient tolerated the procedure well. TTE ___ 
revealed resolution of AI, but higher than expected gradient 
across AV (mean gradient of 32 mm Hg). Continued on ASA 81 and 
Plavix 75 mg. Plavix will be stopped once pt's INR 2.5 on 
Warfarin. 

# pAtrial Fibrillation: Metoprolol was decreased to 25 succinate 
BID from 50 mg succinate BID due to concerns regarding patients 
RBBB and LAFB on EKG with placement of TAVR (concern for 
compression of left bundle). Restarted on Warfarin POD 0 from 
TAVR at home alternating doses of 3.75 mg and 2.5 mg. Patient 
was in sinus rhythm during admission. 

# HTN - Continue Eplerenone at 25 mg QAM, and metoptolol as 
above. 

# HFpEF - Continued Eplerenone at 25 mg QAM, metoptolol at 
reduced dose as above. Bumetanide dose was decreased 50 % to 2 
mg BID (home dose of 4 mg BID).

CHRONIC ISSUES
# HLD - continued statin
# Gout - continued allopurinol
# T2DM - continued home Lantus, ISS

TRANSITIONAL ISSUES

NEW MEDICATIONS:
-None

CHANGED MEDICATIONS:
-Bumex 2mg BID
-Metoprolol 25mg BID

STOPPED MEDICATIONS:
-None

OTHER:
-Patient is s/p TAVR on ___ which he tolerated well
-Continued on ASA, Plavix and warfarin until INR therapeutic at 
___
-TTE showed well seated valve with trace valvular AI, higher 
than expected gradient across AV (mean gradient of 32 mm Hg).
- Follow-up with the structural heart team as scheduled
- Code: Full
- Contact: ___ (wife) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Bumetanide 4 mg PO BID 
4. Creon 12 1 CAP PO TID W/MEALS 
5. Eplerenone 25 mg PO QAM 
6. Omeprazole 20 mg PO BID 
7. Warfarin 2.5 mg PO 3X/WEEK (___) 
8. Warfarin 3.75 mg PO 4X/WEEK (___) 
9. Glargine 18 Units Breakfast
Glargine 15 Units Dinner
10. Metoprolol Succinate XL 50 mg PO BID 
11. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel [Plavix] 75 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Bumetanide 2 mg PO BID  
4.  Glargine 18 Units Breakfast
Glargine 15 Units Dinner 
5.  Metoprolol Succinate XL 25 mg PO BID  
6.  Vitamin D 1000 UNIT PO DAILY  
7.  Allopurinol ___ mg PO DAILY  
8.  Atorvastatin 20 mg PO QPM  
9.  Creon 12 1 CAP PO TID W/MEALS  
10.  Eplerenone 25 mg PO QAM  
11.  Omeprazole 20 mg PO BID  
12.  Warfarin 3.75 mg PO 4X/WEEK (___)  
13.  Warfarin 2.5 mg PO 3X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
==========
Severe Aortic Insufficiency
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

Why were you admitted to ___?
- you were admitted for monitoring after placement of your 
aortic valve replacement(endovascular aortic valve)

What was done for you in the hospital?
- We watched your heart rhythm on telemetry to make sure it 
didn't change as a result of the procedure. 
- We followed your neurologic exam to monitor for stroke, which 
you did not have. 
- We changed some of the dosing of your medications as you may 
not need as much of the fluid pill now that your valve has been 
replaced. (see discharge medication list to view changes)
- You had an echo which showed that your valve is in the proper 
place.

What should you do when you leave the hospital?
- Take all your medications as prescribed on your discharge 
medication sheet (see below)
- Be sure to make it to your follow up appointments (listed 
below)
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs. 
- Monitor for signs of stroke (acute weakness, numbness, slurred 
speech, dizziness, Nausea, severe headache). Please call ___ if 
you experience any of these concerning symptoms. 

It was a pleasure taking care of you.
Sincerely,
Your ___ Care Team.
 
Followup Instructions:
___